US04304728
Trifluoromethane sulphonyl chloride (3.95 ml) was added over 10 minutes to a stirred solution of ethyl 6-phenyl-2,4,6-trioxohexanoate (8.1 g) and triethylamine (6.5 ml) in dichloromethane (100 ml) at 0° to 5° C. The solution was stirred for 2 hours at 0° to 5° C., then made acidic by passing in hydrogen chloride gas. The mixture was stirred for 3 hours at room temperature, washed with water and evaporated to a brown oil which crystallised from ethanol-water. The product was recrystallised from ethanol-water and from ethyl acetate-petroleum ether 60°-80° C. to give ethyl 3-chloro-4-oxo-6-phenyl-4H-pyran-2-carboxylate (mp 121° C.).

reactant | Trifluoromethane sulphonyl chloride | 3.95 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | ethyl 6-phenyl-2,4,6-trioxohexanoate | 8.1 g | C1(=CC=CC=C1)C(CC(CC(C(=O)OCC)=O)=O)=O | C14H14O5
reactant | triethylamine | 6.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | hydrogen chloride | Cl | ClH
product | ethyl 3-chloro-4-oxo-6-phenyl-4H-pyran-2-carboxylate | ClC1=C(OC(=CC1=O)C1=CC=CC=C1)C(=O)OCC | C14H11ClO4
